US20010016659A1
A solution of 3-methoxy-2-naphthoic acid (3.36 g, 16.6 mmol) and Et3N (2.59 mL, 18.6 mmol) in anh toluene (70 mL) was stirred at room temp. for 15 min., then treated with a solution of DPPA (5.12 g, 18.6 mmol) in toluene (10 mL) via pipette. The resulting mixture was heated at 80° C. for 2 h. After cooling the mixture to room temp., benzyl alcohol (2.06 mL, 20 mmol) was added via syringe. The mixture was then warmed to 80° C. overnight. The resulting mixture was cooled to room temp., quenched with a 10% citric acid solution, and extracted with EtOAc (2×100 mL). The combined organic layers were washed with a saturated NaCl solution, dried (MgSO4) and concentrated under reduced pressure. The residue was purified by column chromatography (14% EtOAc/86% hexane) to give 2-(N-(carbobenzyloxy)amino-3-methoxynaphthalene as a pale yellow oil (5.1 g, 100%): 1H-NMR (DMSO-d6) δ3.89 (s, 3H), 5.17 (s, 2H), 7.27-7.44 (m, 8H), 7.72-7.75 (m, 2H), 8.20 (s, 1H), 8.76 (s, 1H).

reactant | 3-methoxy-2-naphthoic acid | 16.6 mmol, 3.36 g | COC=1C(=CC2=CC=CC=C2C1)C(=O)O | C12H10O3
reactant | Et3N | 18.6 mmol, 2.59 mL | CCN(CC)CC | C6H15N
reactant | DPPA | 18.6 mmol, 5.12 g | C=1C=CC(=CC1)P(=O)(C=2C=CC=CC2)N=[N+]=[N-] | C12H10N3OP
reactant | benzyl alcohol | 20 mmol, 2.06 mL | C(C1=CC=CC=C1)O | C7H8O
solvent | toluene | 70 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
product | N-(carbobenzyloxy)amino-3-methoxynaphthalene | 5.1 g, 100% | C(=O)(OCC1=CC=CC=C1)NC1=CC(=CC2=CC=CC=C12)OC | C19H17NO3
